US04874769
A mixture of 2.34 g (0.01 mol) 5-[3-(3-hydroxyphenoxy)butyl]tetrazole, 2.13 g (0.01 mol) 2-chloromethylquinoline hydrochloride and 12 ml (2N, NaOH) in 20 ml DMF and 20 ml THF is heated over a steam bath for a period of 24 hours. The reaction mixture is poured into water and extracted with ether. The ether extract is washed with water, dried over MgSO4 and concentrated to dryness under reduced pressure. The residue is passed through a silica gel column using hexane/ethyl acetate (3:1) as eluent. Evaporation of eluent gives 5-[3-(3-(2-quinolylmethyloxy)phenoxy)butyl]tetrazole. (M.P. 147°-149° C.).

reactant | 5-[3-(3-hydroxyphenoxy)butyl]tetrazole | 0.01 mol, 2.34 g | OC=1C=C(OC(CCC2=NN=NN2)C)C=CC1 | C11H14N4O2
reactant | 2-chloromethylquinoline hydrochloride | 0.01 mol, 2.13 g | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | NaOH | [OH-].[Na+]
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-[3-(3-(2-quinolylmethyloxy)phenoxy)butyl]tetrazole | N1=C(C=CC2=CC=CC=C12)COC=1C=C(OC(CCC2=NN=NN2)C)C=CC1 | C21H21N5O2
